Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],2.23315344526
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([C:7]([H:8])([H:9])[H:10])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5]#[C:11][C:14]([H:15])([H:16])[H:17],1.24519067799
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],1.7277963359900002
[H:1][C:2][O:3][C:4][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-4.1222196035900005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[O:12].[H:10],2.09842840559
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],-2.13741748605
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])=[O:6],2.82808676128
[C:11]([H:12])([H:13])=[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.28537567
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])[H:10],3.40961630203
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.14932761793
[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.69392609547
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.62238568604
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],7.52644711852
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13],0.74407647661
[H:1][C:2]([H:3])([H:4])[C:7]([H:8])[C:10]([H:9])([O:11][C:12]=[C:5]([H:6])[H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C@@:5]1([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]1([H:13])[H:14],-2.16980579978
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12].[H:13]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13],-3.84604069289
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13],3.79773371452
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.80606136911
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.575284144419999
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:6](=[C:7]([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],3.649222381580002
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:9][H:10],3.1534092191000003
[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.5105746888
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6],5.147776756630001
[H:10].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.96354987122
[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.96069610589
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],6.310431114659999
[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[H:9].[O:5]>>[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9],-1.49209919879
[C:7]#[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-5.42790763544
[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([C:3][H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],4.90598443759
